US07884101B2
Preparation of 1-[4-[2-(7-aza-bicyclo[2.2.1]hept-7-yl)-ethoxy]-3-(4-bromo-2-methyl-2H-pyrazol-3-yl)-phenyl]-3-(3-trifluoromethyl-benzyl)-urea (Compound 710)
4-[2-(7-Aza-bicyclo[2.2.1]hept-7-yl)-ethoxy]-3-(4-bromo-2-methyl-2H-pyrazol-3-yl)-phenylamine (50.0 mg, 0.13 mmol) was added to a solution of 4-nitrophenylchloroformate (26.0 mg, 0.13 mmol) in 1,2-dichloroethane (4.0 mL) and the mixture stirred at room temperature for 1 hour. To the resulting precipitate mixture was added 3-trifluoromethylbenzylamine (0.022 mL, 0.15 mmol) and N,N-diisopropylethylamine (0.030 mL, 0.17 mmol), and the mixture stirred an additional 1 hour. The mixture was concentrated and purified by RP-HPLC. The collected fractions were concentrated and 12% sodium hydroxide (aq) (0.2 mL) was added to give pH 9. The solution was extracted into ethyl acetate and the organic layer was dried over sodium sulfate, filtered, and evaporated to dryness to give a white solid (49 mg, 65%). LCMS m/z (%)=592 (M+H 79Br, 100), 594 (M+H 81Br, 67). 1H NMR (400 MHz, DMSO-d6) δ: 8.67 (bs, 1H), 7.67 (bs, 1H), 7.65-7.59 (m, 4H), 7.53-7.50 (m, 1H), 7.33 (d, J=2.69 Hz, 1H), 7.12 (d, J=9.04 Hz, 1H), 6.77-6.74 (m, 1H), 4.40 (d, J=4.0 Hz, 2H), 4.08-3.98 (m, 2H), 3.67 (s, 3H), 3.12 (m, 2H), 2.59-2.55 (m, 2H), 1.56-1.54 (m, 4H), 1.17-1.15 (m, 4H).

reactant | 4-[2-(7-Aza-bicyclo[2.2.1]hept-7-yl)-ethoxy]-3-(4-bromo-2-methyl-2H-pyrazol-3-yl)-phenylamine | 0.13 mmol, 50.0 mg | C12CCC(CC1)N2CCOC2=C(C=C(C=C2)N)C=2N(N=CC2Br)C | C18H23BrN4O
reactant | 4-nitrophenylchloroformate | 0.13 mmol, 26.0 mg | C1=CC(=CC=C1[N+](=O)[O-])[Cl-]C(=O)[O-]
reactant | 3-trifluoromethylbenzylamine | 0.15 mmol, 0.022 mL | FC(C=1C=C(CN)C=CC1)(F)F | C8H8F3N
reactant | N,N-diisopropylethylamine | 0.17 mmol, 0.030 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | 1,2-dichloroethane | 4.0 mL | ClCCCl | C2H4Cl2
product | 1-[4-[2-(7-aza-bicyclo[2.2.1]hept-7-yl)-ethoxy]-3-(4-bromo-2-methyl-2H-pyrazol-3-yl)-phenyl]-3-(3-trifluoromethyl-benzyl)-urea | 49 mg, 65% | C12CCC(CC1)N2CCOC2=C(C=C(C=C2)NC(=O)NCC2=CC(=CC=C2)C(F)(F)F)C=2N(N=CC2Br)C | C27H29BrF3N5O2
